### PR TITLE
Add Erdős Problem 1179 (random subsets with uniform subset sums), link the formal proof

### LINKED ISSUE #6277: Erdős Problem 1179
### What is the Erdős problem?

https://www.erdosproblems.com/1179

Let $0<\epsilon<1$ and let $g_\epsilon(N)$ be the minimal $k$ such that if $G$ is an abelian group of size $N$ and $A\subseteq G$ is a uniformly random subset of size $k$, then with probability $\to 1$ the subset-sum representation counts $F_A(g)$ satisfy $\lvert F_A(g)-2^k/N\rvert \leq \epsilon 2^k/N$ for all $g\in G$. Is it true that $g_\epsilon(N)=(1+o_\epsilon(1))\log_2N$?

Status: proved (Erdős–Hall). A formal proof exists in plby/lean-proofs (`Erdos1179.erdos_1179`, Codex and GPT-5.6 Sol). Related to #543.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6277.

### What changed
Adds `FormalConjectures/ErdosProblems/1179.lean` with `repCount A g` (`F_A(g)`), `IsBalanced ε A`, `successProbability G ε k` (fraction of `k`-subsets that are `ε`-balanced) and:
- `erdos_1179` (`research solved`, `answer(True)`): for every `0 < ε < 1` there are sizes `k(N) = (1+o(1)) log₂ N` such that along any sequence of abelian groups with `|G| → ∞` the probability that a random `k(|G|)`-subset is `ε`-balanced tends to `1` (Erdős–Hall [ErHa76]). Linked to plby/lean-proofs `Erdos1179.erdos_1179` (Codex and GPT-5.6 Sol; three Mathlib-only files).
- `erdos_1179.variants.lower_bound` (also linked): an `ε`-balanced set has `|G| ≤ 2^{|A|}`, i.e. `g_ε(N) ≥ log₂ N`.

Since `g_ε(N)` is defined through an asymptotic probability condition, the upper bound is stated as the existence of an explicit admissible size function rather than through a minimum; the two variants together express `g_ε(N) = (1 + o(1)) log₂ N`.

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos1179.erdos_1179` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both statements on top of a renamed copy, same axioms (plby's probability is a `Nat.card` ratio over the subtype of `k`-subsets; the bridge identifies it with the `powersetCard` count used here):

<details>
<summary>Bridge</summary>

```lean
open Filter Finset

namespace Bridge1179

variable {G : Type*} [AddCommGroup G]

lemma repCount_eq (A : Finset G) (g : G) :
    Erdos1179.repCount A g = Erdos1179Plby.setRepCount A g := by
  classical
  unfold Erdos1179.repCount Erdos1179Plby.setRepCount Erdos1179Plby.subsetSum
  congr

variable [Fintype G]

lemma isBalanced_iff (ε : ℝ) (A : Finset G) :
    Erdos1179.IsBalanced ε A ↔ Erdos1179Plby.SetBalanced ε A := by
  unfold Erdos1179.IsBalanced Erdos1179Plby.SetBalanced
  simp only [repCount_eq]

lemma successProbability_eq (ε : ℝ) (k : ℕ) :
    Erdos1179.successProbability G ε k = Erdos1179Plby.subsetSuccessProbability (G := G) ε k := by
  classical
  unfold Erdos1179.successProbability Erdos1179Plby.subsetSuccessProbability
    Erdos1179Plby.uniformProbability
  have e : {A : Erdos1179Plby.KSubsets G k // Erdos1179Plby.SetBalanced ε A.1} ≃
      {A : Finset G // A.card = k ∧ Erdos1179Plby.SetBalanced ε A} :=
    { toFun := fun A => ⟨A.1.1, A.1.2, A.2⟩
      invFun := fun A => ⟨⟨A.1, A.2.1⟩, A.2.2⟩
      left_inv := fun A => rfl
      right_inv := fun A => rfl }
  have h1 : Nat.card {A : Erdos1179Plby.KSubsets G k // Erdos1179Plby.SetBalanced ε A.1} =
      ((univ : Finset G).powersetCard k |>.filter (Erdos1179.IsBalanced ε)).card := by
    rw [Nat.card_eq_fintype_card, Fintype.card_congr e, Fintype.card_subtype]
    congr 1
    ext A
    simp only [mem_filter, mem_univ, true_and, mem_powersetCard, subset_univ, isBalanced_iff]
  have h2 : Fintype.card (Erdos1179Plby.KSubsets G k) = ((univ : Finset G).powersetCard k).card := by
    rw [Fintype.card_subtype]
    congr 1
    ext A
    simp [mem_powersetCard]
  rw [h1, h2]

theorem erdos_1179_bridge : type_of% Erdos1179.erdos_1179 := by
  show True ↔ _
  simp only [true_iff]
  intro ε hε0 hε1
  obtain ⟨-, hsize, hprob⟩ := Erdos1179Plby.erdos_1179
  refine ⟨Erdos1179Plby.erdos1179Size, hsize, fun G _ _ hcard => ?_⟩
  simp only [successProbability_eq]
  exact hprob ε hε0 hε1 G hcard

theorem erdos_1179_lower_bound_bridge : type_of% @Erdos1179.erdos_1179.variants.lower_bound := by
  intro G _ _ ε hε0 hε1 A hA
  exact Erdos1179Plby.erdos_1179.1 G ε hε0 hε1 A ((isBalanced_iff ε A).1 hA)

end Bridge1179
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1179»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1179.lean [hunk 1]
```diff
@@ -0,0 +1,101 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1179.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks!
